US09102688B2
General Procedure 20: 5-Methyl-8-nitroquinoline (Intermediate 32)
5-methyl-2-nitroaniline (1.0 g, 6.57 mmol), glycerol (1.88 g, 20.4 mmol), 3-nitrobenzenesulfonic acid sodium salt (1.92 g, 8.54 mmol) were added to H2SO4/H2O (6 ml, 7:5) solution and heated at 105° C. for 48 h. After completion of the reaction (monitored by LCMS), the mixture was cooled to 45° C. and poured slowly onto ice water (50 ml) and the mixture was extracted with DCM. The combined organic phases were dried (Na2SO4) and concentrated in vacuo to give the title compound (950 mg, 77%) which was used in the next step without purification.

reactant | 5-methyl-2-nitroaniline | 6.57 mmol, 1.0 g | CC=1C=CC(=C(N)C1)[N+](=O)[O-] | C7H8N2O2
reactant | glycerol | 20.4 mmol, 1.88 g | OCC(O)CO | C3H8O3
reactant | 3-nitrobenzenesulfonic acid sodium salt | 8.54 mmol, 1.92 g | [Na+].[N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
reactant | H2SO4 H2O | 6 ml | OS(=O)(=O)O.O
product | 5-Methyl-8-nitroquinoline | 950 mg, 77% | CC1=C2C=CC=NC2=C(C=C1)[N+](=O)[O-] | C10H8N2O2
